US05051423
2-[4-(1H-Imidazol-1-yl)phenoxy]ethanamine dihydrochloride
To 40 mL of 2M aqueous hydrochloric acid add 10.3 g (39 mmol) of N-[2-[4-(1H-imidazol-1-yl)phenoxy]ethyl]propionamide. Reflux the reaction mixture. Monitor the progress of the reaction by thin-layer chromatographyon silica gel (9:1, CH2Cl2 :MeOH). Upon completion of the reaction, remove the solvent in vacuo and triturate with isopropanol. Recrystallization of the resulting solid from ethanol affords the title compound.

reactant | N-[2-[4-(1H-imidazol-1-yl)phenoxy]ethyl]propionamide | 39 mmol, 10.3 g | N1(C=NC=C1)C1=CC=C(OCCNC(CC)=O)C=C1 | C14H17N3O2
reactant | hydrochloric acid | 2M, 40 mL | Cl | ClH
product | 2-[4-(1H-Imidazol-1-yl)phenoxy]ethanamine dihydrochloride | Cl.Cl.N1(C=NC=C1)C1=CC=C(OCCN)C=C1 | InChI=1S/C11H13N3O.2ClH/c12-5-8-15-11-3-1-10(2-4-11)14-7-6-13-9-14;;/h1-4,6-7,9H,5,8,12H2;2*1H
